US06107329
(S)-[2-(4-Amino-phenyl)-1-dimethylcarbamoyl-ethyl]-carbamic acid tert-butyl ester
Dimethylamine hydrochloride (2.04 mmol) and Boc-p-amino-L-phenylalanine (1.7 mmol) were coupled according to Procedure A (0-25° C. reaction temperature, 4:1 dichloro-methaneldimethylformamide reaction solvent, washed with base only). The product was purified by chromatography on silica gel eluted with 50, 60, 70 and 100% ethyl acetate in hexanes. Yield 226 mg, 42%; HPLC (70/30) 2.45 minutes (100%).

reactant | Dimethylamine hydrochloride | 2.04 mmol | Cl.CNC
reactant | Boc-p-amino-L-phenylalanine | 1.7 mmol | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)N)C(=O)O | C14H20N2O4
product | (S)-[2-(4-Amino-phenyl)-1-dimethylcarbamoyl-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CC1=CC=C(C=C1)N)C(N(C)C)=O)=O | C16H25N3O3
